US07214674B2
8-{1-[2-(2-Methylquinazolin-5-yloxy)ethyl]piperidin-4-ylmethyl}-4H-benzo[1,4]oxazin-3-one (E8)
The title compound was prepared from 8-(piperidin-4-ylmethyl)-4H-benzo[1,4]oxazin-3-one and 5-(2-(methanesulphonyloxy)ethoxy)-2-methylquinazoline in a similar manner to Example 1.

reactant | 8-(piperidin-4-ylmethyl)-4H-benzo[1,4]oxazin-3-one | N1CCC(CC1)CC1=CC=CC=2NC(COC21)=O | C14H18N2O2
reactant | 5-(2-(methanesulphonyloxy)ethoxy)-2-methylquinazoline | CS(=O)(=O)OCCOC1=C2C=NC(=NC2=CC=C1)C | C12H14N2O4S
product | 8-{1-[2-(2-Methylquinazolin-5-yloxy)ethyl]piperidin-4-ylmethyl}-4H-benzo[1,4]oxazin-3-one | CC1=NC2=CC=CC(=C2C=N1)OCCN1CCC(CC1)CC1=CC=CC=2NC(COC21)=O | C25H28N4O3
